US08357717B2
Stage (iv): ((5-(2-Chlorobenzoyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)methanone (G-15)
(9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(4,5,6,7-tetrahydrothieno[3,2-c]-pyridin-2-yl)methanone hydrochloride (0.089 g, 0.208 mmol) was dissolved in dichloromethane (4 ml) and N,N-dimethylformamide (1 ml), and triethylamine (0.072 ml, 0.52 mmol) was added. The mixture was cooled with an ice bath, and 2-chlorobenzoyl chloride (0.036 g, 0.208 mmol), dissolved in dichloromethane (4 ml), was added slowly at 0° C. The cooling bath was removed and the reaction mixture was stirred for 15 h at RT. Saturated sodium hydrogen carbonate solution (15 ml) was then added and the phases were separated. The aqueous phase was extracted with dichloromethane (25 ml) and the combined organic phases were washed with saturated NaCl solution (10 ml) and saturated sodium chloride solution (10 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol/ammonia (25% aq.), 500:100:1). Yield: 80 mg (72%). MS, Rt=3.0 min; m/z=535.2 [MH]+

reactant | (9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(4,5,6,7-tetrahydrothieno[3,2-c]-pyridin-2-yl)methanone hydrochloride | 0.208 mmol, 0.089 g | Cl.N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=3CNCCC3S2)CC1
reactant | triethylamine | 0.52 mmol, 0.072 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoyl chloride | 0.208 mmol, 0.036 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (5-(2-Chlorobenzoyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)methanone | ClC1=C(C(=O)N2CC3=C(CC2)SC(=C3)C(=O)N3CCC2(CC3)CCN(CC2)C2=CC=NC=C2)C=CC=C1 | C29H31ClN4O2S
